US07115623B2
A solution of LDA (16.5 ml of 2M solution, 3.5 g, 0.033 mol) in THF (100 ml) was cooled to −78° C. or below (dry ice-methanol bath) under a nitrogen flow and treated dropwise with triethyl 4-phosphonocrotonate (8.6 g, 0.037 mmol) while stirring. The mixture was further stirred for 15 minutes, treated dropwise with isonicotinaldehyde (3.2 g, 0.030 mol), and then stirred at 0° C. for 1.5 hours. Next, the mixture was treated with acetic acid and evaporated. To the residue was added saturated aqueous sodium hydrogen carbonate and the mixture was extracted with ethyl acetate. The extract was treated according to conventional techniques. Evaporation of solvent yielded ethyl 5-(pyridin-3-yl)-2,4-pentadienoate as a crystalline product (3.3 g).

reactant | LDA | 0.033 mol, 2M, 16.5 ml, 3.5 g | [Li+].CC(C)[N-]C(C)C
reactant | dry ice methanol | C(=O)=O.CO
reactant | triethyl 4-phosphonocrotonate | 0.037 mmol, 8.6 g | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | isonicotinaldehyde | 0.030 mol, 3.2 g | C(C1=CC=NC=C1)=O | C6H5NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 5-(pyridin-3-yl)-2,4-pentadienoate | N1=CC(=CC=C1)C=CC=CC(=O)OCC | C12H13NO2
